US07186729B2
Step 1: 4-(4-Chloro-phenyl)-3-methoxycarbonylmethyl-piperazine-1-carboxylic acid tert-butyl ester
4-Chlorophenyl boronic acid (1.08 g, 6.97 mmol) and 3-methoxycarbonylmethyl-piperazine-1-carboxylic acid tert-butyl ester (0.9 g, 3.48 mmol) were dissolved in dichloromethane. To this mixture was added copper acetate (0.63 g, 3.48 mmol), 4 Å molecular sieves and pyridine (0.56 mL, 6.97 mmol) and the reaction mixture was stirred at room temperature for 72 h. The reaction mixture was concentrated in vacuo and dissolved in ethyl acetate, filtered through celite and concentrated. The crude product was purified using gradient elution from hexane/ethyl acetate (5%) to hexane/ethyl acetate (20%). ESI-MS m/z: 369 (M+1), UV retention time: 2.97 min.

reactant | 4-Chlorophenyl boronic acid | 6.97 mmol, 1.08 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 3-methoxycarbonylmethyl-piperazine-1-carboxylic acid tert-butyl ester | 3.48 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1CC(NCC1)CC(=O)OC | C12H22N2O4
reactant | pyridine | 6.97 mmol, 0.56 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper acetate | 3.48 mmol, 0.63 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-(4-Chloro-phenyl)-3-methoxycarbonylmethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)Cl)CC(=O)OC | C18H25ClN2O4
